US06291514B1
Methyl 4-(4-(2H,3H-benzo[3,4-e]4-dioxin-6-yl)(1,3-thiazol-2-yl))-5-methylthiothiophene-2-carboxylate: 40 mg (0.162 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was dissolved in 2 mL of reagent grade acetone. 1-(2H,3H-benzo[e]1,4-dioxin-6-yl)-2-bromoethan-1-one (0.162 mmol; 42 mg; Maybridge Chemical Co. LTD., Cornwall, U.K.) was added and the solution was allowed to reflux for 3 h. The solution was allowed to cool and allowed to stir for 2 days after which the reaction solution was concentrated in vacuo. The crude product was dissolved in 50 mL of CH2Cl2 and partitioned between 50 mL of 1 N NaOH (aq.). The organic layer was obtained and dried over sodium sulfate and concentrated to afford 60 mg (90% yield) of methyl 4-[4-(3,4-ethylenedioxyphenyl)thiazol-2-yl]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.162 mmol, 40 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 1-(2H,3H-benzo[e]1,4-dioxin-6-yl)-2-bromoethan-1-one | 0.162 mmol, 42 mg | O1CCOC2=C1C=CC(=C2)C(CBr)=O | C10H9BrO3
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-[4-(3,4-ethylenedioxyphenyl)thiazol-2-yl]-5-methylthiothiophene-2-carboxylate | 60 mg, 90% yield | C1OC=2C=C(C=CC2OC1)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C18H15NO3S3
